US04025505
The starting material is prepared as follows: The mixture of 3.0 g of 4-chlorophthalic anhydride, 2.8 g of 4-nitro-2-chloroaniline and 30 ml of acetic acid is refluxed for 24 hours. It is cooled, the precipitate formed filtered off and washed with diethyl ether, to yield the N-(4-nitro-2-chlorophenyl)-4-chlorophtalimide melting at 209°-212°.

reactant | 4-chlorophthalic anhydride | 3.0 g | ClC=1C=C2C(C(=O)OC2=O)=CC1 | C8H3ClO3
reactant | 4-nitro-2-chloroaniline | 2.8 g | [N+](=O)([O-])C1=CC(=C(N)C=C1)Cl | C6H5ClN2O2
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | N-(4-nitro-2-chlorophenyl)-4-chlorophtalimide | [N+](=O)([O-])C1=CC(=C(C=C1)N1C(C=2C(C1=O)=CC(=CC2)Cl)=O)Cl | C14H6Cl2N2O4
